Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Transferred for management of iatrogenic bile duct injury
 
Major Surgical or Invasive Procedure:
Roux-en-Y Hepatico-jejunstomy
 
History of Present Illness:
___, caucasian, male with recent hx of cholecystitis and 
cholangitis (___), initially managed medically due to 
concurrent NSTEMI with trop T> 84. 

1. Iatrogenic bile duct injury
- Underwent interval laparoscopic, converted to open 
cholecystectomy on ___ Complicated by iatrogenic CBD injury
- Intra-op critical view was felt to be achieved; intra-op 
cholangiogram did not reveal CBD injury
- Converted to open due to adherrent bowel to RUQ
- POD1: LFT, Bil noted to be raised + raised Trop T; went into 
AF with RVR; cardio consult recommended doubling Toprol dose
- MRCP done in view of rising Bil: non-filling CBD ; PTC placed; 
initally drained bile but now blood
- Transfered to ___ for further cardiac evaluation and 
management of CBD injury

2. CAD
- No acute intervention for NSTEMI, left circumflex stenting in 
___
- Cardiac cath ___ shoed thrombosed left circumflex stent, 
unable to recannulate
- Noted to have stress-induced AFib and demand ischemia but did 
not require further investigation
 
Past Medical History:
PMHX
1. CAD s/p left circumflex stenting with recent myocardial 
infarction ___
- Cardiac cath ___ showed thrombosed left circumflex which 
cannot be recannulated

2. Diverticulosis

3. Vertigo

4. Atrial fibrillation

5. Asthma

6. Reflux

7. Benign prostate hypertrophy

8. Cholecystitis, cholangitis, history of gallstone pancreatitis

Past Sx Hx:
1. Lap converted open cholecystectomy ___ c/b iatrogenic 
CBD injury

 
Social History:
___
Family History:
No CAD, otherwise N/C
 
Physical Exam:
Vitals: T 101.6; HR 83; BP 139/75; RR 24; POx 94% 4LNC
GEN: A&O, NAD, mild to moderate jaundice, tired appearing
HEENT: mucus membranes moist, no LAD, OP clear
CV: RRR, II/VI SEM
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, distended, appropriately TTP, no rebound or guarding,
normoactive bowel sounds, no palpable masses. PTC to gravity
draining brown bilious fluid, JP to bulb suction in RUQ with
sero-sanguinous drainage
INCISION: C/D/I, staples to mid-abdominal wound
EXT: No ___ edema, ___ warm and well perfused, 2+ ___ pulses
.

 
Pertinent Results:
- CBC: 5.3 > 30.8 < 204  

- Coags: ___ 13.1 / PTT 22.1 / INR: 1.1  

        137 / 105 / 12    
- Chem: --------------< 87  Ca: 8.0 Mg: 2.0 P: 1.7
        3.___ / 1.0  

- LFTs: ALT 390 ___ at ___ AP 143; Tbili 8.9 (5->6.2 at 
___
Alb 3.0; AST 119 (1221 at ___ Dbili 8.1 (3.7->4.8 at ___
73; Lip 80 
- CEs: CK 365 (937->527 at ___/ MB 2 (3.6 at OSH)/ Trop-T 0.55
(4.14->2.55 at ___     
- Fibrinogen: 903
.
Imaging: 
- ___ CXR (___): The chest is normal except for healed rib
fractures on the right.  There is no interval change
- ___ Intra-Op Cholangiogram (___): Opacification of the
intrahepatic biliary ductal system, probably both right and left
intrahepatic ducts, as well as dilation of a tubular structure
more inferiorly that was initially read as the common bile duct. 

Further review indicates that in addition to the common bile
duct, this also could be a dilated left intrahepatic duct
projecting inferiorly due to obliquity
- ___ MRCP (___): Common hepatic duct and proximal CBD not seen
and there is dilatation of the left greater than right
intrahepatic biliary ductal system, with postsurgical
inflammatory changes within the operative bed as well as
perihepatic fluid.
- ___ EKG:  Atrial fibrillation with rapid ventricular 
response,
Nonspecific ST abnormality, ST less depressed in Anterior leads
- ___ ERCP (___): The ampulla was identified and had evidence 
of
previous sphincterotomy. The bile duct was selectively 
cannulated
with a balloon catheter and .025 guidewires. The distal CBD has
an estimated diameter of 6mm-7mm. There is abrubt cut-off of the
proximal CBD consistent with bile duct injury. An occulsion
cholangiogram did not result in passage of contrast beyond the
cut-off. Attempts at bridging the cut-off with a quidewire were
not successful.

 
Brief Hospital Course:
___ with a recent hx of cholecystitis and cholangitis (___), 
managed medically due to concurrent NSTEMI w/trop >84 underwent 
an interval laparoscopic converted to open cholecystectomy on 
___, which was complicated by an iatrogenic CBD transection and 
cardiac enzyme elevation. The patient was transfered to ___ 
for further cardiac evaluation and management of his bile duct 
injury. Cardiology assessment recommended an alternative Toprol 
dose but otherwise recommended no further cardiac opitimization 
for surgery. The patient underwent a A PTC drain had been placed 
on ___ after occlusion was noted on ERCP at an OSH. 

The patient was initially admitted to the intensive care unit 
for monitoring on ___. There the patient was started on 
Vanc/Pip-Tazo, omeprazole for GI prophylaxis, Dilaudid PCA for 
pain control and was made NPO. Cardiac enzymes were cycled which 
revealed no rising troponin levels. On ___ the Pip-Tazo were 
d/c'ed and Ampicilin Sulbactam was started. The patient was then 
transferred to the floor. 

On ___ the patient was started on PO lopressor and dilaudid 
with IV versions of both being disconitnued. The patient's PTBD 
drain was found to be out by the nurse in the afternoon for 
which an interventional radiology team was called for the PTBD 
drain to be replaced. After the replacement of the drain the 
patient returned to the floor in stable condition. At this time 
the patient was continued on the Vanc and the Amp-Sulbactam. 

On ___ the patient underwent preoperative evaluation. 

On ___, the patient underwent a hepaticojejunostomy 
successfully. The patient returned to the floor with an NGT, a 
PTBD, and a bulb drain to suction. After a brief, uneventful 
stay in the PACU, the patient arrived on the floor NPO, on IV 
fluids and antibiotics, with a foley catheter, and a dilaudid 
PCA for pain control. The patient was hemodynamically stable.

Neuro: The patient received a dilaudid PCA with good effect and 
adequate pain control. When tolerating oral intake, the patient 
was transitioned to oral pain medications.

CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.

Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization.

GI/GU/FEN: Post-operatively, the patient was made NPO with IV 
fluids. Diet was advanced when appropriate, which was well 
tolerated. Patient's intake and output were closely monitored, 
and IV fluid was adjusted when necessary. Electrolytes were 
routinely followed, and repleted when necessary. The patient was 
started on all home prostate medications prior to removal of 
foley. The folwy was removed and pateint voided prior to 
discharge. 

ID: The patient's white blood count and fever curves were 
closely watched for signs of infection. The patient's wound was 
monitored for possible signs of infection.

Endocrine: The patient's blood sugar was monitored throughout 
his stay; insulin dosing was adjusted accordingly.

Hematology: The patient's complete blood count was examined 
routinely. 

Prophylaxis: The patient received subcutaneous heparin and 
venodyne boots were used during this stay. He was encouraged to 
get up and ambulate as early as possible.

On ___ a repeat tube cholangiogram was obtained which 
demonstrated patent anastamosis.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled. The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.
 
Medications on Admission:
Medications prior to admission to ___: coumadin 5mg daily, ASA
325mg daily, finasteride 5mg daily, terazosin 2mg daily, Toprol
12.5mg daily, omeprazole 20mg daily, lovastatin 20mg qAM / 40mg
qPM, asthmacort, albuterol, MVI, Vit D 
.
Medications on transfer to ___: Toprol XL 25mg daily,
omeprazole 20mg daily, albuterol 2puffs q6h PRN SOB, lorazepam
0.5mg IV BID, ASA 325mg daily, HSQ 5000U TID
.

 
Discharge Medications:
1. finasteride 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
2. terazosin 1 mg Capsule Sig: Two (2) Capsule PO HS (at 
bedtime).  
3. docusate sodium 50 mg/5 mL Liquid Sig: Two (2)  PO BID (2 
times a day): while on narcotics.  
4. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
5. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
6. metoprolol succinate 25 mg Tablet Extended Release 24 hr Sig: 
0.5 Tablet Extended Release 24 hr PO DAILY (Daily).  
7. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for pain for 2 weeks. Tablet(s) 
8. Coumadin 5 mg Tablet Sig: One (1) Tablet PO once a day: 
Please continue home dose of coumadin.  
9. Outpatient Lab Work
___ on ___. Vicodin ___ mg Tablet Sig: ___ Tablets PO every ___ hours 
as needed for pain.
Disp:*30 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
bile duct injury
afib
h/o cad

 
Discharge Condition:
Mental Status: Clear and coherent.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Please call Dr. ___ ___ if you have any of 
the following: 
fever, chills, nausea, vomiting, jaundice, increased abdominal 
pain or distension, constipation/diarrhea, incision 
redness/bleeding/drainage or capped "roux tube" insertion site 
appears red or has drainage. 
Keep dry gauze dressing over capped drain site. Change daily. 
Call if drain suture is loose or falls off. Must keep secured.
Empty JP drain and record outputs. Bring record of outputs to 
next appointment with Dr. ___. (Disregard if drain removed 
prior to discharge to home)
You may shower with soap/water, pat incision dry. Do not apply 
powder/lotion/ointment to incision. 
No heavy lifting/straining
No driving while taking pain medication
 
Followup Instructions:
___